US08431525B2
Under an argon atmosphere, 3-benzyl-5-(4-methoxyphenyl)-2-[(4-methoxyphenyl)thioacetylamino]pyrazine (c-44) (823 mg, 1.81 mmol) was dissolved in anhydrous dichloromethane (30 mL) and to this was added 1.0 M solution of boron tribromide in dichloromethane (6.80 mL, 6.80 mmol) at room temperature and heated to reflux for 21 h. After cooling to room temperature, to this was added saturated aqueous solution of sodium bicarbonate and concentrated under reduced pressure with a rotary evaporator to remove dichloromethane. The resulting suspension was filtrated and the residue was dried to give the crude product (591 mg) as a red solid. The crude product was dissolved in ethyl acetate and to this was added n-hexane to form a precipitate. The solid was collected by filtration and dried in vacuo to give 3-benzyl-5-(4-hydroxyphenyl)-2-[(4-hydroxyphenyl)thioacetylamino]pyrazine (coelenterathioamide) (c-45) as an orange solid (514 mg, 66.6%). Rf=0.23 (n-hexane/ethyl acetate=1/1). Mp. 101-103° C. 1H NMR (400 MHz, DMSO-d6) δ 3.90 (s, 2H), 4.00 (s, 2H), 6.71-6.77 (AABB′, 2H), 6.85-6.91 (AA′BB′, 2H), 6.97-7.03 (AA′BB′, 2H), 7.12-7.25 (m, 3H), 7.27-7.34 (m, 2H), 7.94-8.00 (AA′BB′, 2H), 8.91 (s, 1H), 9.34 (s, 1H), 9.94 (s, 1H), 12.05 (s, 1H). 13C NMR (67.8 MHz, DMSO-d6) δ 50.9, 115.1 (2C), 115.8 (2C), 126.0, 126.2, 127.0, 128.18 (2C), 128.24 (2C), 128.9 (2C), 129.9 (2C), 137.4, 138.0, 144.6, 149.9, 152.0, 156.4, 159.3, 205.3 (one carbon at benzyl position was unobservable due to over lapping with septet peak of DMSO). IR (KBr, cm−1) 515, 561, 706, 731, 837, 908, 935, 1063, 1130, 1171, 1238, 1315, 1371, 1443, 1514, 1609, 2808, 3026, 3159. HRMS (ESI+) m/z 428.1434 ((M+H)+, C25H22N3O2S+ requires 428.1427).

reactant | 3-benzyl-5-(4-methoxyphenyl)-2-[(4-methoxyphenyl)thioacetylamino]pyrazine | 1.81 mmol, 823 mg | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)OC)NC(CC1=CC=C(C=C1)OC)=S | C27H25N3O2S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | n-hexane | CCCCCC | C6H14
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 6.80 mmol, 6.80 mL | ClCCl | CH2Cl2
product | 3-benzyl-5-(4-hydroxyphenyl)-2-[(4-hydroxyphenyl)thioacetylamino]pyrazine | 514 mg, 66.6% | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)O)NC(CC1=CC=C(C=C1)O)=S | C25H21N3O2S
